US03950338
2-(4'-Allyl-piperazino)-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine is prepared, in a yield of 79%, by condensing 2-chloro-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine with 1-allyl-piperazine, as indicated in the preceding Examples. It is a solid which melts in two stages; melting point 131°C, solidification, followed by melting point 143°C [after recrystallization from a mixture of benzene (1 volume) and isopropyl ether (1 volume)].

reactant | 2-chloro-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine | ClC=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C12H12ClN3O3
reactant | 1-allyl-piperazine | C(C=C)N1CCNCC1 | C7H14N2
product | 2-(4'-Allyl-piperazino)-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine | yield of 79% | C(C=C)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C19H25N5O3
